US05650428
The procedure described in Example 125 was repeated, except that (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-methanesulfonyloxypropanamide (310 mg) was reacted with 3-chlorophenol (125 μl) to obtain (RS)-3-(3-chlorophenoxy)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)propanamide (257.24 mg).

reactant | (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-methanesulfonyloxypropanamide | 310 mg | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(COS(=O)(=O)C)NS(=O)(=O)C1=CC=C(C=C1)F)=O | C20H23FN2O8S2
reactant | 3-chlorophenol | 125 μl | ClC=1C=C(C=CC1)O | C6H5ClO
product | (RS)-3-(3-chlorophenoxy)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)propanamide | 257.24 mg | ClC=1C=C(OCC(C(=O)NC2=CC=C(C=C2)CC(=O)OCC)NS(=O)(=O)C2=CC=C(C=C2)F)C=CC1 | C25H24ClFN2O6S
